US03963783
76 g. of epoxymyrcene, prepared according to the method described in paragraph a) by epoxidation of myrcene, were added dropwise between -5° and 0°, with good stirring. Then the mixture was stirred with 200 ml. ice-water and neutralised with diluted HCl. Following the same isolation procedure described in paragraph b) 1. the sec.-myrcenol was obtained with a comparable yield.

reactant | epoxymyrcene | CC1(C(O1)CCC(=C)C=C)C | C10H16O
reactant | myrcene | CC(=CCCC(=C)C=C)C | C10H16
reactant | HCl | Cl | ClH
product | myrcenol | CC(C)(CCCC(=C)C=C)O | C10H18O
